US06897227B2
2-(4-Tolylsulfonyl)ethyl 4-[{5-methoxy-([4-methoxy-3,5-dimethyl(2-pyridyl)]methylsulfinyl)benzimidazolyl}sulfonyl]-2-(2-[4-tolylsulfonyl]ethoxycarbonylmethoxy)phenoxyacetate (Intermediate A21)
2-(4-Tolylsulfonyl)ethyl 4-[{5-methoxy-([4-methoxy-3,5-dimethyl(2-pyridyl)]methylthio)benzimidazolyl}sulfonyl]-2-(2-[4-tolylsulfonyl]ethoxycarbonylmethoxy)phenoxyacetate (Intermediate A20, 4.8 g, 0.0054 mol) was dissolved in 20 mL of tetrahydrofuran, and the solution was left in a freezer for 40 min. A solution of 3-chloroperoxybenzoic acid (1.3 g, 0.0075 mol) in 6 mL of tetrahydrofuran was cooled for 30 min. The two were combined and left in the freezer for 16 hr. The mixture was then poured into a rapidly stirring mixture of 5% aqueous sodium metabisulfite and ethyl acetate. The layers were separated, and the organic layer was washed with 2 portions of 2.5% aqueous sodium bicarbonate and with saturated aqueous sodium chloride. The solution was filtered through 1PS paper and concentrated at aspirator pressure. The residue was separated on a column of flash silica gel (2:1 ethyl acetate:hexanes→ethyl acetate) to yield 2.0 g (41%) of the title compound.

reactant | 2-(4-Tolylsulfonyl)ethyl 4-[{5-methoxy-([4-methoxy-3,5-dimethyl(2-pyridyl)]methylthio)benzimidazolyl}sulfonyl]-2-(2-[4-tolylsulfonyl]ethoxycarbonylmethoxy)phenoxyacetate | 0.0054 mol, 4.8 g | COC1=C(C2=C(N=C(N2)S(=O)(=O)C2=CC(=C(OCC(=O)OCCS(=O)(=O)C3=CC=C(C=C3)C)C=C2)OCC(=O)OCCS(=O)(=O)C2=CC=C(C=C2)C)C=C1)SCC1=NC=C(C(=C1C)OC)C | C45H47N3O14S4
reactant | 3-chloroperoxybenzoic acid | 0.0075 mol, 1.3 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 2-(4-Tolylsulfonyl)ethyl 4-[{5-methoxy-([4-methoxy-3,5-dimethyl(2-pyridyl)]methylsulfinyl)benzimidazolyl}sulfonyl]-2-(2-[4-tolylsulfonyl]ethoxycarbonylmethoxy)phenoxyacetate | 2.0 g, 41% | COC1=C(C2=C(N=C(N2)S(=O)(=O)C2=CC(=C(OCC(=O)OCCS(=O)(=O)C3=CC=C(C=C3)C)C=C2)OCC(=O)OCCS(=O)(=O)C2=CC=C(C=C2)C)C=C1)S(=O)CC1=NC=C(C(=C1C)OC)C | C45H47N3O15S4
